*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:01:02 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "SEDFFX1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  SEDFFX1 E CK D Q SI QN SE
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET E 6.85799e-16
*|P (E X 0 0.3000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.3825 0.5375)
*|I (Mmn4:g Mmn4 g X 0 1.0025 0.5375)
*|I (Mmp0:g Mmp0 g X 0 0.4375 1.1775)
*|I (Mmp2:g Mmp2 g X 0 1.5175 1.1775)
*|S (E:2 0.4100 0.7200)
*|S (E:5 1.0100 0.7200)
*|S (E:7 1.4900 0.8500)
*|S (E:8 0.9150 0.6850)
*|S (E:9 0.4100 0.7200)
C1 Mmp2:g VSS 5.8201e-17
C2 Mmp0:g VSS 4.29513e-17
C3 Mmn4:g VSS 4.23123e-17
C4 Mmn0:g VSS 2.25018e-17
C5 E:8 VSS 1.27941e-16
C6 E:2 VSS 9.58364e-17
C7 E:5 VSS 4.80924e-17
C8 E:7 VSS 1.96544e-16
C9 E VSS 5.14193e-17
Rl1 E:2 Mmn0:g 29.945055 $W=0.039
Rl2 Mmn4:g E:5 71.098015 $W=0.039
Rl3 Mmp0:g E:2 123.076920 $W=0.039
Rl4 Mmp2:g E:7 116.845619 $W=0.039
Rk5 E:7 E:8 0.992614 $W=0.08
Rk6 E:8 E:5 0.069137 $W=0.1
Rk7 E:9 E 0.149163 $W=0.1
Rk8 E:2 E:9 45.000000 $W=0.08
Rk9 E:8 E:9 0.388213 $W=0.08
*
*|NET CK 1.82798e-16
*|P (CK X 0 6.7000 0.8550)
*|I (Mmn20:g Mmn20 g X 0 6.6625 0.4825)
*|I (Mmp20:g Mmp20 g X 0 6.7175 1.2525)
*|S (CK:2 6.6900 0.8500)
*|S (CK:4 6.6900 0.8500)
C10 Mmp20:g VSS 3.22442e-17
C11 Mmn20:g VSS 3.77169e-17
C12 CK:2 VSS 4.06934e-17
C13 CK VSS 7.21436e-17
Rl10 CK:2 Mmn20:g 101.098900 $W=0.039
Rl11 Mmp20:g CK:2 101.923080 $W=0.039
Rk12 CK:4 CK 0.003489 $W=0.19
Rk13 CK:2 CK:4 45.000000 $W=0.19
*
*|NET D 2.22948e-16
*|P (D X 0 0.7000 0.8550)
*|I (Mmn3:g Mmn3 g X 0 0.6425 0.5375)
*|I (Mmp3:g Mmp3 g X 0 0.6425 1.1775)
*|S (D:2 0.6150 0.8450)
*|S (D:4 0.6150 0.8450)
C14 Mmp3:g VSS 3.55525e-17
C15 Mmn3:g VSS 2.98342e-17
C16 D:2 VSS 9.09371e-17
C17 D VSS 6.66241e-17
Rl14 D:2 Mmn3:g 77.614853 $W=0.039
Rl15 Mmp3:g D:2 73.768692 $W=0.039
Rk16 D:4 D 0.042884 $W=0.125
Rk17 D:2 D:4 45.000000 $W=0.125
*
*|NET Q 1.45248e-16
*|P (Q X 0 3.7000 0.6650)
*|I (Mmn55:d Mmn55 d X 0 3.6550 0.5300)
*|I (Mmp55:d Mmp55 d X 0 3.7650 1.1700)
C18 Mmp55:d VSS 5.75213e-17
C19 Mmn55:d VSS 4.70394e-17
C20 Q VSS 4.0687e-17
Rk18 Q Mmn55:d 75.014221 $W=0.1
Rk19 Mmp55:d Q 62.320076 $W=0.0865
*
*|NET SI 2.75874e-16
*|P (SI X 0 3.3000 0.8550)
*|I (Mmn12:g Mmn12 g X 0 3.2125 0.5875)
*|I (Mmp12:g Mmp12 g X 0 3.3175 1.2325)
*|S (SI:2 3.2900 0.7950)
*|S (SI:4 3.2900 0.7950)
C21 Mmp12:g VSS 5.5184e-17
C22 Mmn12:g VSS 3.07582e-17
C23 SI:4 VSS 6.37382e-17
C24 SI:2 VSS 4.50712e-17
C25 SI VSS 8.1122e-17
Rl20 SI:2 Mmn12:g 44.207958 $W=0.039
Rl21 Mmp12:g SI:2 109.410446 $W=0.039
Rk22 SI:4 SI 0.036029 $W=0.1
Rk23 SI:2 SI:4 45.000000 $W=0.1
*
*|NET QN 1.37763e-16
*|P (QN X 0 1.9000 0.8550)
*|I (Mmn57:d Mmn57 d X 0 1.7825 0.4800)
*|I (Mmp57:d Mmp57 d X 0 1.9100 1.0950)
C26 Mmp57:d VSS 3.52393e-17
C27 Mmn57:d VSS 7.74856e-17
C28 QN VSS 2.50379e-17
Rk24 Mmn57:d QN 75.174782 $W=0.1
Rk25 QN Mmp57:d 62.058617 $W=0.1
*
*|NET SE 3.71229e-16
*|P (SE X 0 2.3000 1.0450)
*|I (Mmn10:g Mmn10 g X 0 2.3875 0.5775)
*|I (Mmn13:g Mmn13 g X 0 3.0725 0.5875)
*|I (Mmp10:g Mmp10 g X 0 2.4875 1.0675)
*|I (Mmp11:g Mmp11 g X 0 2.9125 1.2325)
*|S (SE:2 2.9125 0.8625)
*|S (SE:3 2.4875 0.8625)
*|S (SE:4 2.4150 0.8250)
C29 Mmp11:g VSS 3.88605e-17
C30 Mmp10:g VSS 3.01388e-17
C31 Mmn13:g VSS 5.66628e-17
C32 Mmn10:g VSS 2.95353e-17
C33 SE:3 VSS 1.85455e-17
C34 SE:2 VSS 5.53724e-17
C35 SE:4 VSS 7.3424e-17
C36 SE VSS 6.86894e-17
Rl26 SE:3 SE:4 11.927898 $W=0.104
Rl27 SE:2 SE:3 160.005524 $W=0.039
Rl28 SE:4 Mmn10:g 49.795059 $W=0.039
Rl29 Mmn13:g SE:2 128.824036 $W=0.039
Rl30 SE:3 Mmp10:g 30.450726 $W=0.039
Rl31 SE:2 Mmp11:g 93.912270 $W=0.039
Rk32 SE:4 SE 45.165657 $W=0.1
*
*|NET Eb 3.9258e-16
*|I (Mmn0:d Mmn0 d X 0 0.2750 0.5375)
*|I (Mmn2:g Mmn2 g X 0 1.2075 0.5375)
*|I (Mmp0:d Mmp0 d X 0 0.3450 1.1775)
*|I (Mmp4:g Mmp4 g X 0 1.2075 1.1775)
*|S (Eb:2 1.1700 0.9700)
*|S (Eb:4 0.3350 1.0650)
C37 Mmp4:g VSS 2.12312e-17
C38 Mmp0:d VSS 6.89253e-18
C39 Mmn2:g VSS 5.71645e-17
C40 Mmn0:d VSS 6.08043e-17
C41 Eb:4 VSS 1.21281e-16
C42 Eb:2 VSS 1.25207e-16
Rl33 Eb:2 Mmn2:g 124.232826 $W=0.039
Rl34 Mmp4:g Eb:2 24.232828 $W=0.039
Rk35 Eb:2 Eb:4 45.677170 $W=0.08
Rk36 Eb:4 Mmn0:d 75.590385 $W=0.09
Rk37 Eb:4 Mmp0:d 62.027901 $W=0.1
*
*|NET net554 1.71389e-18
*|I (Mmn3:d Mmn3 d X 0 0.8225 0.5375)
*|I (Mmn4:s Mmn4 s X 0 0.8225 0.5375)
C43 Mmn3:d VSS 1.71389e-18
Rmw38 Mmn4:s Mmn3:d 0.001000 $W=1
*
*|NET Db 5.46728e-16
*|I (Mmn4:d Mmn4 d X 0 1.1050 0.5375)
*|I (Mmn11:d Mmn11 d X 0 2.7750 0.5875)
*|I (Mmp4:d Mmp4 d X 0 1.3625 1.1775)
*|I (Mmp11:s Mmp11 s X 0 2.8200 1.2325)
*|S (Db:3 2.8100 1.2200)
*|S (Db:5 1.3300 1.2200)
C44 Mmp11:s VSS 2.06375e-16
C45 Mmp4:d VSS 1.44201e-16
C46 Mmn11:d VSS 8.4107e-17
C47 Mmn4:d VSS 1.12045e-16
Rk39 Db:3 Db:5 1.061243 $W=0.08
Rk40 Db:5 Mmn4:d 75.654854 $W=0.09
Rk41 Mmn11:d Db:3 75.445847 $W=0.09
Rk42 Mmp4:d Db:5 62.000000 $W=0.08
Rk43 Mmp11:s Db:3 62.000000 $W=0.09
*
*|NET net514 2.23071e-18
*|I (Mmn2:s Mmn2 s X 0 1.2950 0.5375)
*|I (Mmn1:d Mmn1 d X 0 1.2950 0.5375)
C48 Mmn2:s VSS 2.23071e-18
Rmw44 Mmn1:d Mmn2:s 0.001000 $W=1
*
*|NET net502 4.92467e-16
*|I (Mmn1:g Mmn1 g X 0 1.3825 0.5375)
*|I (Mmn57:g Mmn57 g X 0 1.6475 0.4800)
*|I (Mmn56:d Mmn56 d X 0 2.0900 0.5775)
*|I (Mmp1:g Mmp1 g X 0 1.6225 1.1775)
*|I (Mmp57:g Mmp57 g X 0 1.8175 1.0950)
*|I (Mmp56:d Mmp56 d X 0 2.1300 1.0675)
*|S (net502:2 1.6750 0.7350)
*|S (net502:3 1.6125 0.7350)
*|S (net502:9 2.0800 0.5650)
C49 Mmp56:d VSS 5.72796e-17
C50 Mmp57:g VSS 3.86146e-17
C51 Mmp1:g VSS 5.85386e-17
C52 Mmn56:d VSS 1.26385e-16
C53 Mmn57:g VSS 2.3887e-17
C54 Mmn1:g VSS 4.21004e-17
C55 net502:3 VSS 4.89372e-17
C56 net502:2 VSS 9.67247e-17
Rl45 net502:2 net502:3 5.848045 $W=0.094
Rl46 net502:3 Mmn1:g 119.767677 $W=0.039
Rl47 net502:2 Mmn57:g 37.801262 $W=0.039
Rl48 net502:3 Mmp1:g 118.925095 $W=0.039
Rl49 Mmp57:g net502:2 81.308647 $W=0.039
Rk50 net502:9 net502:2 45.733051 $W=0.08
Rk51 Mmn56:d net502:9 75.000000 $W=0.08
Rk52 Mmp56:d net502:9 62.375362 $W=0.08
*
*|NET net536 9.98167e-16
*|I (Mmn56:g Mmn56 g X 0 2.1825 0.5775)
*|I (Mmn55:g Mmn55 g X 0 3.5625 0.5300)
*|I (Mmn45:d Mmn45 d X 0 4.0950 0.5525)
*|I (Mmn50:g Mmn50 g X 0 4.5725 0.5525)
*|I (Mmp56:g Mmp56 g X 0 2.2225 1.0675)
*|I (Mmp55:g Mmp55 g X 0 3.6575 1.1700)
*|I (Mmp45:d Mmp45 d X 0 4.1200 1.1375)
*|I (Mmp50:g Mmp50 g X 0 4.4775 1.1375)
*|S (net536:1 2.1950 1.4100)
*|S (net536:5 3.6300 0.8650)
*|S (net536:8 4.4775 0.7525)
*|S (net536:9 4.3550 0.7250)
*|S (net536:11 4.0300 0.7250)
*|S (net536:13 4.1100 1.0900)
*|S (net536:15 3.6300 1.4100)
C57 Mmp50:g VSS 5.45928e-17
C58 Mmp45:d VSS 5.78472e-17
C59 Mmp55:g VSS 3.82451e-17
C60 Mmp56:g VSS 4.35175e-17
C61 Mmn50:g VSS 4.0966e-17
C62 Mmn45:d VSS 3.39432e-17
C63 Mmn55:g VSS 3.23398e-17
C64 Mmn56:g VSS 4.46209e-17
C65 net536:15 VSS 2.0129e-16
C66 net536:11 VSS 3.22052e-17
C67 net536:8 VSS 2.91602e-17
C68 net536:1 VSS 1.94464e-16
C69 net536:5 VSS 1.13376e-16
C70 net536:9 VSS 8.15999e-17
Rl53 net536:8 net536:9 77.617615 $W=0.039
Rl54 net536:5 Mmn55:g 69.651558 $W=0.039
Rl55 Mmn50:g net536:8 74.977898 $W=0.039
Rl56 net536:1 Mmp56:g 122.614853 $W=0.039
Rl57 Mmp56:g Mmn56:g 119.082672 $W=0.039
Rl58 Mmp55:g net536:5 24.795059 $W=0.039
Rl59 net536:8 Mmp50:g 99.681496 $W=0.039
Rk60 net536:9 net536:11 0.218353 $W=0.09
Rk61 net536:11 net536:13 0.286795 $W=0.09
Rk62 net536:15 net536:5 45.400826 $W=0.08
Rk63 net536:15 net536:1 1.195221 $W=0.08
Rk64 net536:13 net536:15 0.545773 $W=0.1
Rk65 net536:11 Mmn45:d 75.113037 $W=0.1
Rk66 Mmp45:d net536:13 62.000000 $W=0.09
*
*|NET SEb 5.62755e-16
*|I (Mmn10:d Mmn10 d X 0 2.4800 0.5775)
*|I (Mmn11:g Mmn11 g X 0 2.8675 0.5875)
*|I (Mmp10:d Mmp10 d X 0 2.5800 1.0675)
*|I (Mmp13:g Mmp13 g X 0 3.1675 1.2325)
*|S (SEb:2 2.8950 0.2250)
*|S (SEb:4 3.1300 0.9950)
*|S (SEb:6 2.4900 0.5650)
C71 Mmp13:g VSS 5.06259e-17
C72 Mmp10:d VSS 6.32061e-17
C73 Mmn11:g VSS 4.07721e-17
C74 Mmn10:d VSS 1.05935e-16
C75 SEb:2 VSS 1.34189e-16
C76 SEb:4 VSS 1.68026e-16
Rl67 Mmn11:g SEb:2 143.768692 $W=0.039
Rl68 Mmp13:g SEb:4 80.771286 $W=0.039
Rk69 SEb:4 SEb:2 0.773327 $W=0.08
Rk70 SEb:2 SEb:6 0.547931 $W=0.09
Rk71 Mmn10:d SEb:6 75.000000 $W=0.08
Rk72 SEb:6 Mmp10:d 62.395912 $W=0.08
*
*|NET Dbp 1.00462e-15
*|I (Mmn11:s Mmn11 s X 0 2.9700 0.5875)
*|I (Mmn25:d Mmn25 d X 0 6.0850 0.5525)
*|I (Mmp11:d Mmp11 d X 0 3.0400 1.2325)
*|I (Mmp25:s Mmp25 s X 0 6.0425 1.1375)
*|S (Dbp:3 6.0950 0.5400)
*|S (Dbp:5 3.0150 1.2800)
C77 Mmp25:s VSS 8.30433e-17
C78 Mmp11:d VSS 4.70694e-16
C79 Mmn25:d VSS 3.50676e-16
C80 Mmn11:s VSS 1.00203e-16
Rk73 Dbp:3 Dbp:5 2.942650 $W=0.08
Rk74 Dbp:5 Mmn11:s 75.510269 $W=0.06
Rk75 Mmn25:d Dbp:3 75.000000 $W=0.08
Rk76 Mmp11:d Dbp:5 62.000000 $W=0.08
Rk77 Mmp25:s Dbp:3 62.434830 $W=0.08
*
*|NET net546 1.34803e-18
*|I (Mmn13:s Mmn13 s X 0 3.1425 0.5875)
*|I (Mmn12:d Mmn12 d X 0 3.1425 0.5875)
C81 Mmn13:s VSS 1.34803e-18
Rmw78 Mmn12:d Mmn13:s 0.001000 $W=1
*
*|NET n30 3.32273e-16
*|I (Mmn45:g Mmn45 g X 0 4.2125 0.5525)
*|I (Mmn51:d Mmn51 d X 0 4.8325 0.5525)
*|I (Mmp45:g Mmp45 g X 0 4.2125 1.1375)
*|I (Mmp51:d Mmp51 d X 0 4.7600 1.1375)
*|S (n30:2 4.2500 0.8850)
*|S (n30:5 4.5450 0.8850)
C82 Mmp51:d VSS 3.68892e-17
C83 Mmp45:g VSS 3.32908e-17
C84 Mmn51:d VSS 7.32602e-17
C85 Mmn45:g VSS 4.10521e-17
C86 n30:5 VSS 7.63688e-17
C87 n30:2 VSS 7.14115e-17
Rl79 n30:2 Mmn45:g 85.771294 $W=0.039
Rl80 Mmp45:g n30:2 41.540520 $W=0.039
Rk81 n30:5 n30:2 45.193851 $W=0.09
Rk82 n30:5 Mmn51:d 75.390938 $W=0.09
Rk83 Mmp51:d n30:5 62.299671 $W=0.09
*
*|NET net534 0
*|I (Mmn50:d Mmn50 d X 0 4.6475 0.5525)
*|I (Mmn51:s Mmn51 s X 0 4.6475 0.5525)
Rmw84 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET CKb 9.66471e-16
*|I (Mmn51:g Mmn51 g X 0 4.7225 0.5525)
*|I (Mmn25:g Mmn25 g X 0 5.9925 0.5525)
*|I (Mmn21:g Mmn21 g X 0 6.4275 0.4825)
*|I (Mmn20:d Mmn20 d X 0 6.7550 0.4825)
*|I (Mmp40:g Mmp40 g X 0 4.8625 1.1375)
*|I (Mmp36:g Mmp36 g X 0 5.6075 1.1375)
*|I (Mmp21:g Mmp21 g X 0 6.4275 1.2525)
*|I (Mmp20:d Mmp20 d X 0 6.8100 1.2525)
*|S (CKb:3 4.8900 1.4100)
*|S (CKb:5 5.6350 1.4400)
*|S (CKb:7 6.4550 0.6900)
*|S (CKb:11 6.4550 0.6900)
*|S (CKb:12 6.4550 1.1100)
C88 Mmp20:d VSS 4.77727e-17
C89 Mmp21:g VSS 3.424e-17
C90 Mmp36:g VSS 6.39019e-17
C91 Mmp40:g VSS 5.85947e-17
C92 Mmn20:d VSS 5.14484e-17
C93 Mmn21:g VSS 2.30515e-17
C94 Mmn25:g VSS 4.887e-17
C95 Mmn51:g VSS 7.98198e-17
C96 CKb:12 VSS 1.33828e-16
C97 CKb:3 VSS 1.01805e-16
C98 CKb:5 VSS 2.19514e-16
C99 CKb:7 VSS 1.03625e-16
Rl85 CKb:7 Mmn25:g 192.284882 $W=0.039
Rl86 CKb:7 Mmn21:g 34.410446 $W=0.039
Rl87 Mmp40:g CKb:3 95.691772 $W=0.039
Rl88 Mmn51:g Mmp40:g 187.660278 $W=0.039
Rl89 Mmp36:g CKb:5 107.230240 $W=0.039
Rl90 Mmp21:g CKb:7 157.175995 $W=0.039
Rk91 CKb:5 CKb:3 0.604658 $W=0.08
Rk92 CKb:7 CKb:11 45.000000 $W=0.09
Rk93 CKb:12 CKb:5 0.884535 $W=0.08
Rk94 CKb:11 CKb:12 0.328732 $W=0.085
Rk95 Mmn20:d CKb:11 75.302864 $W=0.09
Rk96 CKb:12 Mmp20:d 62.265560 $W=0.09
*
*|NET mout 3.69887e-16
*|I (Mmn40:d Mmn40 d X 0 5.1175 0.5525)
*|I (Mmn35:g Mmn35 g X 0 5.5575 0.5525)
*|I (Mmp40:s Mmp40 s X 0 5.0775 1.1375)
*|I (Mmp35:g Mmp35 g X 0 5.5025 1.1375)
*|S (mout:2 5.5300 0.7350)
*|S (mout:5 5.1700 0.7050)
C100 Mmp35:g VSS 9.0918e-17
C101 Mmp40:s VSS 6.17217e-17
C102 Mmn35:g VSS 3.06323e-17
C103 Mmn40:d VSS 4.98293e-17
C104 mout:5 VSS 4.75601e-17
C105 mout:2 VSS 8.92259e-17
Rl97 Mmn35:g mout:2 30.769232 $W=0.039
Rl98 mout:2 Mmp35:g 101.098900 $W=0.039
Rk99 mout:5 mout:2 45.235191 $W=0.09
Rk100 mout:5 Mmn40:d 75.195312 $W=0.085
Rk101 Mmp40:s mout:5 62.267849 $W=0.09
*
*|NET CKbb 9.16938e-16
*|I (Mmn40:g Mmn40 g X 0 4.9425 0.5525)
*|I (Mmn36:g Mmn36 g X 0 5.7875 0.5525)
*|I (Mmn21:d Mmn21 d X 0 6.3200 0.4825)
*|I (Mmp51:g Mmp51 g X 0 4.6575 1.1375)
*|I (Mmp25:g Mmp25 g X 0 5.9075 1.1375)
*|I (Mmp21:d Mmp21 d X 0 6.3200 1.2525)
*|S (CKbb:2 4.7050 0.8950)
*|S (CKbb:4 4.9800 0.8000)
*|S (CKbb:6 5.9350 0.9200)
*|S (CKbb:9 6.2950 1.2050)
*|S (CKbb:10 5.9350 1.2350)
*|S (CKbb:11 4.9500 0.8650)
C106 Mmp21:d VSS 1.10687e-16
C107 Mmp25:g VSS 2.81313e-17
C108 Mmp51:g VSS 4.77837e-17
C109 Mmn21:d VSS 8.8482e-17
C110 Mmn36:g VSS 4.40101e-17
C111 Mmn40:g VSS 4.40601e-17
C112 CKbb:11 VSS 1.32954e-16
C113 CKbb:10 VSS 1.6655e-16
C114 CKbb:2 VSS 9.45838e-17
C115 CKbb:4 VSS 6.019e-17
C116 CKbb:6 VSS 9.95063e-17
Rl102 Mmn40:g CKbb:4 98.078979 $W=0.039
Rl103 CKbb:6 Mmn36:g 129.103577 $W=0.039
Rl104 Mmp51:g CKbb:2 80.713394 $W=0.039
Rl105 Mmp25:g CKbb:6 29.537928 $W=0.039
Rk106 CKbb:10 CKbb:6 45.251945 $W=0.08
Rk107 CKbb:9 CKbb:10 0.355214 $W=0.08
Rk108 CKbb:11 CKbb:4 0.049922 $W=0.09
Rk109 CKbb:11 CKbb:2 0.156386 $W=0.0815
Rk110 CKbb:10 CKbb:11 1.041658 $W=0.08
Rk111 CKbb:9 Mmn21:d 75.576973 $W=0.08
Rk112 Mmp21:d CKbb:9 62.000000 $W=0.1225
*
*|NET n20 3.33022e-16
*|I (Mmn30:g Mmn30 g X 0 5.2925 0.5525)
*|I (Mmn36:d Mmn36 d X 0 5.8900 0.5525)
*|I (Mmp30:g Mmp30 g X 0 5.2925 1.1375)
*|I (Mmp36:d Mmp36 d X 0 5.7575 1.1375)
*|S (n20:1 5.3600 0.9250)
*|S (n20:2 5.2925 0.9250)
*|S (n20:6 5.7750 0.9250)
C117 Mmp36:d VSS 3.85251e-17
C118 Mmp30:g VSS 3.74734e-17
C119 Mmn36:d VSS 6.31976e-17
C120 Mmn30:g VSS 4.16962e-17
C121 n20:6 VSS 5.62522e-17
C122 n20:2 VSS 2.33668e-17
C123 n20:1 VSS 7.25103e-17
Rl113 n20:1 n20:2 47.771347 $W=0.094
Rl114 n20:2 Mmn30:g 111.252586 $W=0.039
Rl115 n20:2 Mmp30:g 36.252586 $W=0.039
Rk116 n20:6 n20:1 0.281095 $W=0.09
Rk117 Mmn36:d n20:6 75.336357 $W=0.09
Rk118 n20:6 Mmp36:d 62.124172 $W=0.09
*
*|NET net526 5.54575e-19
*|I (Mmn35:d Mmn35 d X 0 5.6725 0.5525)
*|I (Mmn36:s Mmn36 s X 0 5.6725 0.5525)
C124 Mmn35:d VSS 5.54575e-19
Rmw119 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET net473 1.23938e-17
*|I (Mmp3:d Mmp3 d X 0 0.9250 1.1775)
*|I (Mmp4:s Mmp4 s X 0 0.9250 1.1775)
C125 Mmp3:d VSS 1.23938e-17
Rmw120 Mmp4:s Mmp3:d 0.001000 $W=1
*
*|NET net425 2.75327e-18
*|I (Mmp2:s Mmp2 s X 0 1.5700 1.1775)
*|I (Mmp1:d Mmp1 d X 0 1.5700 1.1775)
C126 Mmp2:s VSS 2.75327e-18
Rmw121 Mmp1:d Mmp2:s 0.001000 $W=1
*
*|NET net465 3.19593e-18
*|I (Mmp13:s Mmp13 s X 0 3.2425 1.2325)
*|I (Mmp12:d Mmp12 d X 0 3.2425 1.2325)
C127 Mmp13:s VSS 3.19593e-18
Rmw122 Mmp12:d Mmp13:s 0.001000 $W=1
*
*|NET net457 4.15529e-18
*|I (Mmp50:d Mmp50 d X 0 4.5675 1.1375)
*|I (Mmp51:s Mmp51 s X 0 4.5675 1.1375)
C128 Mmp50:d VSS 4.15529e-18
Rmw123 Mmp51:s Mmp50:d 0.001000 $W=1
*
*|NET net437 7.65789e-19
*|I (Mmp35:d Mmp35 d X 0 5.5550 1.1375)
*|I (Mmp36:s Mmp36 s X 0 5.5550 1.1375)
C129 Mmp35:d VSS 7.65789e-19
Rmw124 Mmp36:s Mmp35:d 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02465P	AS=0.03118P	PD=0.63U	PS=0.72U
+ fw=1.45e-07 sa=1.7e-07 sb=1.49e-06 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.04567P	AS=0.03117P	PD=0.92U	PS=0.72U
+ fw=1.45e-07 sa=4.3e-07 sb=1.23e-06 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn4	Mmn4:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.04567P	PD=0.61U	PS=0.92U
+ fw=1.45e-07 sa=7.9e-07 sb=8.7e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn2	Mmn4:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.01885P	PD=0.61U	PS=0.55U
+ fw=1.45e-07 sa=9.95e-07 sb=6.65e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01885P	AS=0.08385P	PD=0.55U	PS=1.5U
+ fw=1.45e-07 sa=1.17e-06 sb=4.9e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn57	Mmn57:d	Mmn57:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0585P	AS=0.08385P	PD=0.97U	PS=1.5U
+ fw=2.6e-07 sa=8.75481e-07 sb=2.25e-07 sca=12.8392 scb=0.0126987 scc=0.00074151
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=3.45e-07 sca=21.4614 scb=0.0218523 scc=0.00230065
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=1.4e-07 sca=21.4614 scb=0.0218523 scc=0.00230065
Mmn11	Mmn11:d	Mmn11:g	Mmn11:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=8.35e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn13	Mmn11:s	Mmn13:g	Mmn13:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.01377P	PD=0.61U	PS=0.48U
+ fw=1.45e-07 sa=3.45e-07 sb=6.3e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn12	Mmn12:d	Mmn12:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.01378P	AS=0.07355P	PD=0.48U	PS=1.13U
+ fw=1.45e-07 sa=4.85e-07 sb=4.9e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.07355P	PD=0.8U	PS=1.13U
+ fw=2.6e-07 sa=5.78462e-07 sb=1.4e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02755P	AS=0.08107P	PD=0.67U	PS=1.51U
+ fw=1.45e-07 sa=1.9e-07 sb=1.92e-06 sca=17.8702 scb=0.0189183 scc=0.00156031
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.01522P	AS=0.08107P	PD=0.5U	PS=1.51U
+ fw=1.45e-07 sa=5.5e-07 sb=1.56e-06 sca=17.8702 scb=0.0189183 scc=0.00156031
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02537P	AS=0.01522P	PD=0.64U	PS=0.5U
+ fw=1.45e-07 sa=7e-07 sb=1.41e-06 sca=17.8702 scb=0.0189183 scc=0.00156031
Mmn40	Mmn40:d	Mmn40:g	Mmn51:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04422P	AS=0.02537P	PD=0.9U	PS=0.64U
+ fw=1.45e-07 sa=9.2e-07 sb=1.19e-06 sca=17.8702 scb=0.0189183 scc=0.00156031
Mmn30	Mmn40:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04422P	AS=0.0799P	PD=0.9U	PS=1.53U
+ fw=1.45e-07 sa=1.27e-06 sb=8.4e-07 sca=17.8702 scb=0.0189183 scc=0.00156031
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02682P	AS=0.0799P	PD=0.66U	PS=1.53U
+ fw=1.45e-07 sa=1.535e-06 sb=5.75e-07 sca=17.8702 scb=0.0189183 scc=0.00156031
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.02682P	PD=0.61U	PS=0.66U
+ fw=1.45e-07 sa=1.765e-06 sb=3.45e-07 sca=17.8702 scb=0.0189183 scc=0.00156031
Mmn25	Mmn25:d	Mmn25:g	Mmn36:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.97e-06 sb=1.4e-07 sca=17.8702 scb=0.0189183 scc=0.00156031
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02465P	AS=0.02755P	PD=0.63U	PS=0.67U
+ fw=1.45e-07 sa=1.7e-07 sb=3.75e-07 sca=11.9911 scb=0.0120555 scc=0.000498628
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02755P	PD=0.57U	PS=0.67U
+ fw=1.45e-07 sa=4.05e-07 sb=1.4e-07 sca=11.9911 scb=0.0120555 scc=0.000498628
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=1.52e-06 sca=16.022 scb=0.0154303 scc=0.000486038
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.1118P	AS=0.0344P	PD=1.47U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.315e-06 sca=14.0018 scb=0.0126046 scc=0.00046222
Mmp4	Mmp4:d	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05697P	AS=0.1118P	PD=0.96U	PS=1.47U
+ fw=2.15e-07 sa=9.1e-07 sb=7.5e-07 sca=12.9303 scb=0.0120133 scc=0.000461649
Mmp2	Mmp4:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05697P	AS=0.0129P	PD=0.96U	PS=0.55U
+ fw=2.15e-07 sa=1.22e-06 sb=4.4e-07 sca=12.9303 scb=0.0120133 scc=0.000461649
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0129P	AS=0.07515P	PD=0.55U	PS=1.9U
+ fw=2.15e-07 sa=1.325e-06 sb=3.35e-07 sca=12.9303 scb=0.0120133 scc=0.000461649
Mmp57	Mmp57:d	Mmp57:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.07515P	PD=1.06U	PS=1.9U
+ fw=3.9e-07 sa=8.82821e-07 sb=1.4e-07 sca=30.5009 scb=0.0202006 scc=0.00336097
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.1019P	PD=0.71U	PS=1.78U
+ fw=2.15e-07 sa=1.4e-07 sb=4.05e-07 sca=23.7894 scb=0.0219499 scc=0.00260958
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.1019P	PD=0.71U	PS=1.78U
+ fw=2.15e-07 sa=4.05e-07 sb=1.4e-07 sca=23.7894 scb=0.0219499 scc=0.00260958
Mmp11	Mmp11:d	Mmp11:g	Mmp11:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04515P	AS=0.0301P	PD=0.85U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=9.15e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp13	Mmp11:d	Mmp13:g	Mmp13:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04515P	AS=0.02257P	PD=0.85U	PS=0.64U
+ fw=2.15e-07 sa=3.95e-07 sb=6.6e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp12	Mmp12:d	Mmp12:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02257P	AS=0.11447P	PD=0.64U	PS=1.9U
+ fw=2.15e-07 sa=5.45e-07 sb=5.1e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp55	Mmp55:d	Mmp55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0663P	AS=0.11447P	PD=1.12U	PS=1.9U
+ fw=3.9e-07 sa=5.37244e-07 sb=1.7e-07 sca=16.2669 scb=0.0145797 scc=0.00118861
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0935P	PD=0.71U	PS=1.64U
+ fw=2.15e-07 sa=1.4e-07 sb=1.92e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02902P	AS=0.0935P	PD=0.7U	PS=1.64U
+ fw=2.15e-07 sa=4.05e-07 sb=1.655e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp51	Mmp51:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.02902P	PD=0.75U	PS=0.7U
+ fw=2.15e-07 sa=5.85e-07 sb=1.475e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp40	Mmp51:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.08277P	PD=0.75U	PS=1.2U
+ fw=2.15e-07 sa=7.9e-07 sb=1.27e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp30	Mmp40:s	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.08277P	AS=0.06312P	PD=1.2U	PS=1.67U
+ fw=2.15e-07 sa=1.22e-06 sb=8.4e-07 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.06312P	PD=0.55U	PS=1.67U
+ fw=2.15e-07 sa=1.43e-06 sb=6.3e-07 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05483P	AS=0.0129P	PD=0.94U	PS=0.55U
+ fw=2.15e-07 sa=1.535e-06 sb=5.25e-07 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp25	Mmp36:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05483P	AS=0.04837P	PD=0.94U	PS=0.88U
+ fw=2.15e-07 sa=1.835e-06 sb=2.25e-07 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03655P	AS=0.05268P	PD=0.77U	PS=0.92U
+ fw=2.15e-07 sa=1.7e-07 sb=4.3e-07 sca=12.2638 scb=0.00952133 scc=0.000140215
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.05268P	PD=0.71U	PS=0.92U
+ fw=2.15e-07 sa=4.6e-07 sb=1.4e-07 sca=18.3227 scb=0.0195692 scc=0.000509714
.ENDS
.END
